US07968570B2
A mixture of 4-bromo-2-bromomethyl-6-chloro-benzoic acid methyl ester (0.492 g, 1.6 mmol), 4-phenoxy-benzylamine (0.256 mL, 2.0 mmol), and K2CO3 (0.414 g, 3 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-bromo-7-chloro-2-(4-phenoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.200 g, 32%). GC-MS: m/z 429 (M)+, 336 (M−93)+.

reactant | 4-bromo-2-bromomethyl-6-chloro-benzoic acid methyl ester | 1.6 mmol, 0.492 g | COC(C1=C(C=C(C=C1Cl)Br)CBr)=O | C9H7Br2ClO2
reactant | 4-phenoxy-benzylamine | 2.0 mmol, 0.256 mL | O(C1=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13NO
reactant | K2CO3 | 3 mmol, 0.414 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 5-bromo-7-chloro-2-(4-phenoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.200 g, 32% | BrC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)OC1=CC=CC=C1 | C21H15BrClNO2
